US07169780B2
Step 6: Benzyl-(2S)-2-[amino(hydroxyimino)methyl]-4,4-difluoropyrrolidine-1-carboxylate
A solution of benzyl-(2S)-2-cyano-4,4-difluoropyrrolidine-1-carboxylate, hydroxylamine hydrochloride (1.4 eq.) and triethylamine (1.7 eq.) in ethanol was refluxed under nitrogen for 5 hours. Mixture was concentrated and residues taken up in ethyl acetate and washed with water and brine. Combined organics were dried over Na2SO4 and evaporated to give title compound as a foam.

reactant | benzyl-(2S)-2-cyano-4,4-difluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C#N | C13H12F2N2O2
reactant | hydroxylamine hydrochloride | 1.4 eq. | Cl.NO
reactant | triethylamine | 1.7 eq. | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | Benzyl-(2S)-2-[amino(hydroxyimino)methyl]-4,4-difluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C(=NO)N | C13H15F2N3O3
